US06562847B1
Step (a): 1-t-Butoxycarbonyl-3-hydroxypyrrolidine
To 831 μL (10 mmol) of 3-hydroxypyrrolidine were added 50 mL of a solution containing 25 mL of H2O and 25 mL of dioxane, 2.62 gm (12 mmol) of di-t-butyl dicarbonate, and 2.1 mL (12 mmol) of DIEA at ice-bath temperature. The reaction mixture was slowly warmed to room temperature and allowed to stir at room temperature for 5 h. After 5 h, solvents were removed in vacuo. To the residue were added 100 mL of H2O and 100 mL of ethyl acetate. After removing the aqueous layer, the organic layer was washed with H2O (2×50 mL) and concentrated under reduced pressure. The crude product was purified by flash chromatography (2:1, hexane:ethyl acetate) to obtain 1.6 gm (85.6%) of a clear oil: 1H NMR (300 MHz, CD3OD) δ4.35 (1H, m), 3.41-3.25 (4H, m), 1.95 (2H, m), 1.46 (9H, s).

reactant | 3-hydroxypyrrolidine | 10 mmol, 831 μL | OC1CNCC1 | C4H9NO
reactant | H2O | 25 mL | O | H2O
reactant | di-t-butyl dicarbonate | 12 mmol, 2.62 gm | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | DIEA | 12 mmol, 2.1 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 1-t-Butoxycarbonyl-3-hydroxypyrrolidine | 1.6 gm, 85.6% | C(C)(C)(C)OC(=O)N1CC(CC1)O | C9H17NO3
